US09371333B2
2-Amino-7-hydroxy-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile (8)
1,5-Dihydroxy-naphthalene (704 mg, 4.4 mmol), 3-bromo-4,5-dimethoxy-benzaldehyde (1077 mg, 4.4 mmol) and malononitrile (295 mg, 4.4 mmol) were taken in 40 ml ethanol at room temperature, charged with DABCO (triethylenediamine) (48.4 μl, 1.46 mmol) and then stirred at 80° C. under LC-MS control for 18 h. The reaction mixture was then cooled down to room temperature. The mixture was diluted with water to about 100 ml, stirred at room temperature for 1 h and the precipitates were separated by filtration. It was washed well with 50% aqueous ethanol and dried under vacuum (1.18 g, 2.6 mmol, 59%).

reactant | 1,5-Dihydroxy-naphthalene | 4.4 mmol, 704 mg | OC1=CC=CC2=C(C=CC=C12)O | C10H8O2
reactant | 3-bromo-4,5-dimethoxy-benzaldehyde | 4.4 mmol, 1077 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 4.4 mmol, 295 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 1.46 mmol, 48.4 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-7-hydroxy-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)C(=CC=C3)O | C22H17BrN2O4
